US05278191
EXAMPLE VIII 2-diphenylmethylaminoacetamide [Compound #18]
A reaction vessel was charged with 18.3 g (100 mmole) of diphenylmethylamine dissolved in 250 ml of ethanol. Then a mixture of 9.35 g (100 mmole) of chloroacetamide and 8.4 g (100 mmole) of sodium bicarbonate was added and the suspension was brought to reflux and held at reflux for 3 days. Solvent was evaporated under reduced pressure and the residue was dissolved in dichloromethane. The organic phase was washed with water, dried over potassium carbonate and solvent was evaporated. The resulting solid crystallized from a mixture of benzene and cyclohexane.

reactant | diphenylmethylamine | 100 mmole, 18.3 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)N | C13H13N
reactant | chloroacetamide | 100 mmole, 9.35 g | ClCC(=O)N | C2H4ClNO
reactant | sodium bicarbonate | 100 mmole, 8.4 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 2-diphenylmethylaminoacetamide | C1(=CC=CC=C1)C(C1=CC=CC=C1)NCC(=O)N | C15H16N2O
